Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Admission note: to ___ service

PCP: ___, MD ___

nausea, vomiting, diarrhea after eating lunch
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is a ___ year old woman with diabetes mellitus (on 
metformin), hypertension, dyslipidemia, and chronic headaches, 
who presents with acute onset of nausea, vomiting, with diarrhea 
simultaneously four hours after eating homemade spaghetti and 
sauce. She prepared the food, and her husband did not get sick, 
who also at the same food.  Her emesis remained non-bloody and 
bilious, and there were several episodes throughout the night, 
after which the patient presented to the ED.  She subsequently 
developed a headache in the back of her head, after multiple 
episodes of vomiting. Denies chest pain, shortness of breath, 
syncope or visual changes.  She had no other focal neurologic 
complaints. She had a mild fever in the emergency department, 
and notes that it felt better with tylenol. No rigors or cough.

In the ED, initial VS were: 96.5 84 111/53 15 100%. Exam was 
notable for normal neuro exam, tender RUQ/epigastrium, (-) 
___ sign. Labs were notable for lipase 412, WBC 11.6, 
lactate 2.8, and Cr 1.2 (baseline 0.9-1.0).  RUQ ultrasound 
showed no cholelithiasis or cholecystitis (preliminary).  The 
patient received morphine, tylenol, and zofran. She is on her 
___ L of NS.  Neuro was consulted for concern for 
vertebrobasilar presentation and recommended consideration of CT 
head non contrast.  Vitals prior to transfer to the floor were:  
84, 110/43, 17, 92RA.  
 
Review of Systems:  
(+) Per HPI  
(-) Denies chills, night sweats, recent weight loss or gain. 
Denies sinus tenderness, rhinorrhea or congestion. Denies chest 
pain or tightness, palpitations. Denies cough, shortness of 
breath, or wheezes. Denies constipation, BRBPR, melena, or 
abdominal pain. No dysuria, urinary frequency. Denies 
arthralgias or myalgias. Denies rashes. No numbness/tingling or 
muscle weakness in extremities. No feelings of depression or 
anxiety. All other review of systems negative.
 
Past Medical History:
-Hypertension. On amlodipine and lisinopril
-NASH3
-Diabetes.  Her sugars have been running in the 130 to 14Os
-Hyperlipidemia.  On Lipitor
-Osteopenia.  She is not taking calcium or vitamin D
-Shoulder pain (past).  
-Gout.  She has had no recurrences.

Regarding Routine healthcare maintenance (per PCP ___: She 
continues to decline colonoscopy as well as all vaccines. 

Allergies: No known drug allergies
 
Social History:
___
Family History:
No history of stroke.
 
Physical Exam:
Admission examination:
T 101.1 Max, Current 99.8F
BP 110/51 HR ___ 96% on RA
Generally: well-appearing, in no distress. No jaundice.
Neck: Mucous membranes dry, no JVD.
Lungs: Clear of rales and rhonchi bilaterally. No rhonchi.
CV: Regular, borderline tachy, no murmur.
Abdomen: Trace epigastric tenderness, no rebound, soft, positive 
BS. Patient without guarding.
Ext: No pitting edema, warm well perfused.
Neuro: AxOx 3, conversant. No focal deficits, no facial 
assymtery. Patient able to sit up in bed indepedently without 
gross motor deficits. 
 
Pertinent Results:
___ WBC-11.6*# (Neuts-87* Bands-3 Lymphs-6* Monos-3 Eos-1 
Baso-0 ___ Myelos-0)  RBC-5.12 Hgb-15.1 Hct-42.7 
MCV-84 MCH-29.4 MCHC-35.2* RDW-13.9 Plt ___

___ ___ PTT-20.3* ___

___ Glucose-232* UreaN-24* Creat-1.2* Na-139 K-4.4 Cl-101 
HCO3-26 

___:
ALT-26 AST-25 AlkPhos-100 TotBili-0.6
Lipase-412*
cTropnT-<0.01
Albumin-4.3
Lactate-2.8*

CT Head:
FINDINGS: There is no evidence of acute hemorrhage, edema, mass 
effect or 
recent infarction. Prominence of the ventricles and sulci likely 
reflects 
generalized atrophy, age related. Subtle areas of 
periventricular and 
subcortical white matter hypodensity likely reflect sequelae of 
chronic small 
vessel ischemic disease. There are calcifications of the 
bilateral carotid 
siphons. No concerning osseous lesion is seen. The included 
paranasal 
sinuses are clear. 
  
IMPRESSION: No evidence of acute intracranial process. 

RUQ Ultrasound:
IMPRESSION: 
1. No evidence of cholelithiasis or cholecystitis. 
2. Diffusely echogenic liver, consistent with hepatosteatosis. 
Other forms 
of advanced liver disease such as cirrhosis or fibrosis are not 
excluded. 

CXR:
CHEST, PA AND LATERAL: The heart is normal in size. The 
mediastinal and 
hilar contours are unremarkable. The lungs are clear. There is 
no pleural 
effusion, pulmonary vascular congestion, or pneumothorax. Mild 
thoracic 
spondylosis is noted. 
  
IMPRESSION: No evidence of acute cardiopulmonary process. 

 
Brief Hospital Course:
Assessment:
Patient is a ___ year old woman who is admitted with nausea and 
vomiting and diarrhea several hours after eating spaghetti, in 
the setting of diabetes, hypertension, and dyslipidemia. She is 
mildlly dehydrated, but is otherwise feeling much better. The 
headache is improved, as is her epigastric pain. The 
differential of her N/V/Diarrhea is viral gastroentereitis, 
versus food poisoning, and could easily be associated with some 
gastritis or esophagitis to explain her abdominal pain. She is 
otherwise recovering well, and reports being hungry. 

1. Nausea/Vomiting/Diarrhea: Resolved with supportive care.  
Ultrasound without evidence of cholecystitis or pancreatitis.  
Diet was advanced.  Likely gastroenteritis

2. Acute renal failure. Likely related to decreased 
intravascular volume.  Improved with IVF

3. Diabetes, type 2. Used insulin while in house.  Resumed 
metformin at discharge

4. Mild lactate elevation. Likely related to deyhdration in 
setting of metformin, but does not appear acidemic by labs. 
Resolved with IVF

5. Headache. Appeared after dehydration.  Neurology was 
consulted.  Her exam was unremarkable.  CT head was recommended 
which was normal.  Her HA resolved with resolution of her GI 
symptoms and hydration.  No other testing was performed

6. Hypertension.  Stable in house
Full code.

 
Medications on Admission:
AMLODIPINE 5 mg qd
ATORVASTATIN  40 mg qd
LISINOPRIL 40 mg qd
METFORMIN 500 mg qd
 
OTC-Medications:
CIMETIDINE [ACID REDUCER (CIMETIDINE)]-(Prescribed by Other 
Provider)-Dosage uncertain

 
Discharge Medications:
1. amlodipine 5 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Lipitor 40 mg Tablet Sig: One (1) Tablet PO once a day.  
3. lisinopril 40 mg Tablet Sig: One (1) Tablet PO once a day.  
4. metformin 500 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Gastroenteritis
Headache
Type 2 diabetes mellitus
Hyertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with nausea, vomitting, and diarrhea, as well 
as headache.  This was most likely due to a viral 
gastroenteritis.  Neurology evaluated your headache, and CT scan 
of your head was normal.  Your symptoms improved with supportive 
care.

Please stay well hydrated for the next few days.  Please resume 
all of your home medications and follow up with your PCP.
 
Followup Instructions:
___